datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:32])([H:30])[H:31]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:30])[H:31])[H:32])([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:12],71.3372
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21],-22.1752
[C:4](=[C:5]([H:7])[H:8])[H:6].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4](=[C:5]([H:7])[H:8])[H:6].[S:0][S:1][H:3],-17.1544
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]1([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]2([H:27])[C:17]([H:28])([H:29])[C:18]([H:30])([H:31])[C:19]([H:32])([H:33])[C:20]([H:34])([H:35])[C:21]12[H:36]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]1([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]2([H:27])[C:17]([H:28])([H:29])[C:18]([H:30])([H:31])[C:19]([H:32])([H:33])[C:20]([H:34])([H:35])[C:21]12[H:36],34.3088
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]([S:14][H:16])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:15])([H:4])([H:5])[H:6].[S:13][S:14][H:16],-26.7776
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:25]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][H:25],20.5016
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])[H:13])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20],100.834
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])[H:7])[H:6],36.5682
[O:0]=[C:1][O:2][H:3].[O:4][O:5][H:6]>>[H:3][O:4][O:5][H:6].[O:0]=[C:1]=[O:2],0.0
[C:0](#[C:1][C:2]=[S:3])[H:4].[S:5]([C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2](=[S:3])[H:14])[H:4].[S:5]([C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])[H:15])[H:13],70.7096
[O:0][O:1][C:2]([O:3][H:6])([H:4])[H:5]>>[O:0]([O:1][C:2]([O:3][H:6])[H:5])[H:4],154.18
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:11])([H:12])[H:13])([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17],110.332
[C:0]([C:1]([H:4])[H:5])([H:2])[H:3]>>[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3],0.0
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:14])([H:5])([H:6])[H:7].[S:10]=[C:11]([S:12])[H:13],63.5968
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33],49.2875
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10][C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10](=[C:9]([H:13])[H:14])[C:11](=[C:12]([H:16])[H:17])[H:15],20.5016
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:11])[H:10]>>[C:0](=[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11],172.77828
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[O:7][H:8]>>[C:0]([N:1][H:6])([H:2])([H:3])[H:4].[H:5][O:7][H:8],77.9186
